US05616596
To a solution of 3-(4-fluorophenylmethyl)thiophene (1.16 g, 6.04 mmol) in 1:1 CHCl3 /methanol was added N-iodosuccinimide (1.70 g, 7.53 mmol). The reaction mixture was stirred for 3 hours, and then was diluted with CH2Cl2. The organic phase was extracted with saturated aqueous NaHCO3 and brine, dried over MgSO4, filtered, and concentrated in vacuo to give 1.83 g of 2-iodo-3-(4fluorophenylmethyl)thiophene which was used without further purification.

reactant | 3-(4-fluorophenylmethyl)thiophene | 6.04 mmol, 1.16 g | FC1=CC=C(C=C1)CC1=CSC=C1 | C11H9FS
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
reactant | N-iodosuccinimide | 7.53 mmol, 1.70 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-iodo-3-(4fluorophenylmethyl)thiophene | 1.83 g | IC=1SC=CC1CC1=CC=C(C=C1)F | C11H8FIS
